US07247628B2
2-[1-(2-Chlorophenyl)-5-(4-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-morpholine hydrochloride (5A-2)
The solution of 4-benzyl-2-[5-(4-chlorophenyl)-1-(2-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-morpholine 5A-1 (840 mg, 1.7 mmol), 1-chloroethyl chloroformate (0.2 ml, 1.87 mmol), and 1,8-bis(dimethylamino)naphthalene (72 mg, 0.34 mmol) in 5 ml 1,2-dichloroethane was heated to 50° C. for 3 hours. The reaction mixture was then cooled to room temperature and concentrated in vacuo. The residue was dissolved in 5 ml MeOH and heated to reflux for 2 hours. After the reaction was completed, the reaction mixture was cooled to room temperature and concentrated. The residue was stirred in 5 ml diethyl ether and the product was precipitated and collected by filtration to give the title compound 5A-2 as a white solid (525 mg).

reactant | 4-benzyl-2-[5-(4-chlorophenyl)-1-(2-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-morpholine | 1.7 mmol, 840 mg | C(C1=CC=CC=C1)N1CC(OCC1)C1=NN(C(=C1C)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C27H25Cl2N3O
reactant | 1-chloroethyl chloroformate | 1.87 mmol, 0.2 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 1,8-bis(dimethylamino)naphthalene | 0.34 mmol, 72 mg | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | 2-[1-(2-Chlorophenyl)-5-(4-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-morpholine hydrochloride | Cl.ClC1=C(C=CC=C1)N1N=C(C(=C1C1=CC=C(C=C1)Cl)C)C1CNCCO1 | InChI=1S/C20H19Cl2N3O.ClH/c1-13-19(18-12-23-10-11-26-18)24-25(17-5-3-2-4-16(17)22)20(13)14-6-8-15(21)9-7-14;/h2-9,18,23H,10-12H2,1H3;1H
